US06462042B1
Intermediate 19 2-(4Chlorophenoxy)-N-methylacetamide
To a stirred solution of 4-chlorophenoxyacetyl chloride (2 g) in tetrahydrofuran (40 ml) at 0° C. was added methylamine (2M, 12.2 ml). The reaction was allowed to warm to room temperature, and stirred for 1 h, before water (30 ml) added and the tetrahydrofuran removed in vacuo. The aqueous was extracted with ethyl acetate (2×50 ml), the combined organic extracts washed with brine (40 ml), dried over magnesium sulphate (1 g) and the solvent removed in vacuo to yield the title compound as a white solid (1.67 g).

reactant | 4-chlorophenoxyacetyl chloride | 2 g | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
reactant | methylamine | 2M, 12.2 ml | CN | CH5N
reactant | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(4Chlorophenoxy)-N-methylacetamide | 1.67 g | ClC1=CC=C(OCC(=O)NC)C=C1 | C9H10ClNO2
